US05157038
Preparation of 3-ethyl-4-methylene-2-oxo-8-[3-(10H-phenothiazin-10-yl)propyl]-1-oxa-3,8-diazaspiro[4,5]decane
0.6 g of sodium hydride (60% oily dispersion) is added to a solution of 3.0 g of phenothiazine in 20 ml of anhydrous dimethylformamide under argon, then the reaction mixture is stirred at 50° to 60° C. for 2 hours. Thereafter, 3.9 g of 8-(3-chloropropyl)-3-ethyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane dissolved in 20 ml of dimethylformamide are dropwise added and the mixture is stirred at 40° to 50° C. for additional 6 to 7 hours. After cooling down saturated ammonium chloride solution is added to the reaction mixture under argon and the solvent is evaporated under reduced pressure. After taking up the evaporation residue in benzene and washing the benzene solution with water the solution is dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue is recrystallized from ethanol to give the title product in 57.6% yield, m.p.: 122°-123° C.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | phenothiazine | 3.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 8-(3-chloropropyl)-3-ethyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 3.9 g | ClCCCN1CCC2(C(N(C(O2)=O)CC)=C)CC1 | C13H21ClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-4-methylene-2-oxo-8-[3-(10H-phenothiazin-10-yl)propyl]-1-oxa-3,8-diazaspiro[4,5]decane | 57.6% yield | C(C)N1C(OC2(C1=C)CCN(CC2)CCCN2C1=CC=CC=C1SC=1C=CC=CC21)=O | C25H29N3O2S
